US07932250B2
tert-Butyl 4-(4-nitrophenyl)-1-piperidinecarboxylate
To a solution of 4.84 g (30 mmol) of 4-phenylpiperidine in 30 mL of conc. sulfuric acid was added gradually a solution of 1.26 mL of fuming nitric acid in 5 mL of conc. sulfuric acid under ice cooling, and after addition, the reaction mixture was warmed up to room temperature. Then, the reaction mixture was poured into 200 g of ice and sodium hydroxide aqueous solution was added slowly until the mixture to be alkalified. The mixture was extracted with chloroform and the organic layer was dried over with anhydrous sodium sulfate. The solvent removed under reduced pressure. Then, 2.18 g (10 mmol) of di-tert-butyl dicarbonate was added to a solution of the resulting residue in 20 mL of dichloromethane, and the mixture was stirred for 1 hour at room temperature. The mixture was concentrated and the residue was purified by silica gel column chromatography (eluent:dichloromethane/methanol=40/1) to give 0.78 g (8%) of the title compound.

reactant | 4-phenylpiperidine | 30 mmol, 4.84 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | nitric acid | 1.26 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-nitrophenyl)-1-piperidinecarboxylate | 0.78 g, 8% | [N+](=O)([O-])C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
